US06114325
A solution of [2-(hydroxymethyl)phenyl]-N-methyl-N-octadecylformamide and p-toluenesulfonyl chloride in 1,4-dioxane is added to sodium hydroxide solution and the reaction is effected at room temperature to obtain [2-(tosyloxymethyl)phenyl]-N-methyl-N-octadecylformamide.

reactant | [2-(hydroxymethyl)phenyl]-N-methyl-N-octadecylformamide | OCC1=C(C=CC=C1)C(=O)N(CCCCCCCCCCCCCCCCCC)C | C27H47NO2
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | [2-(tosyloxymethyl)phenyl]-N-methyl-N-octadecylformamide | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1=C(C=CC=C1)C(=O)N(CCCCCCCCCCCCCCCCCC)C | C34H53NO4S
